US04587340
(+-)-2-Amino-5,6,7,8-tetrahydro-6-n-butoxymethyl-4(3H)-pteridinone
2,4-Diamino-6-n-butoxymethylpteridine-8-oxide. The product of Example 4A was reacted with guanidine in methanol according to the procedure described in Example 2 to give the title compound; mp >250°. UV: (0.1N HCl) λmax 252.5 (30,900), 282 (10,700), 343.5 (sh) (6,200), 356.5 (8,500), 369.5 (7,800) nm. NMR: δ (d6 -DMSO) 0.88 (t, 3H); 1.0-1.8 (m, 4H); 3.51 (t, 2H); 4.49 (s, 2H); 7.01 (br s, 2H); 7.75 (br s, 2H); 8.37 (s, 1H). IR: (KBr) 3700-2800, 1632, 1546, 1461, 1356, 1331, 1163, 1053, 978 cm-1. Anal. calcd. for C11H16N6O2 : C, 49.99; H, 6.10; N, 31.80. Found: C, 49.79; H, 6.11; N, 31.67.

reactant | 2,4-Diamino-6-n-butoxymethylpteridine-8-oxide | NC1=NC2=[N+](C=C(N=C2C(=N1)N)COCCCC)[O-] | C11H16N6O2
reactant | guanidine | NC(=N)N | CH5N3
reactant | methanol | CO | CH4O
product | (+-)-2-Amino-5,6,7,8-tetrahydro-6-n-butoxymethyl-4(3H)-pteridinone | NC1=NC=2NCC(NC2C(N1)=O)COCCCC | C11H19N5O2
